US08609680B2
To a solution of 2-[(R)-5-(4-carbamoyl-phenyl)-indan-1-yl]-2,7-diazaspiro[3.5]nonane-7-carboxylic acid tert-butyl ester (4-1a, 124 mg, 0.27 mmol) in EtOAc (10 mL) was added 3 mL of 4N HCl in dioxane, resulting in the immediate precipitation of solids. The reaction was stirred for 3 hours. The reaction was concentrated and the residue was coevaporated with diethylether (3×) to provide 4-[(R)-1-(2,7-diaza-spiro[3.5]non-2-yl)-indan-5-yl]-benzamide hydrochloride as a white solid (102 mg, 95%). This material was used without further purification in the next reaction. MS (ES+) 362.5 (M+H)+. 1H NMR (CD3OD) δ 2.12-2.27 (m, 4H), 2.51 (dd, 1H), 2.95-3.03 (m, 1H), 3.13-3.24 (m, 4H), 3.31 (d, 3H), 4.08 (d, 1H), 4.19 (s, 2H), 4.43 (d, 1H), 5.05 (br s, 2H), 7.51-7.62 (m, 2H), 7.64-7.83 (m, 3H), 7.89-7.96 (m, 2H).

reactant | 2-[(R)-5-(4-carbamoyl-phenyl)-indan-1-yl]-2,7-diazaspiro[3.5]nonane-7-carboxylic acid tert-butyl ester | 0.27 mmol, 124 mg | C(C)(C)(C)OC(=O)N1CCC2(CN(C2)[C@@H]2CCC3=CC(=CC=C23)C2=CC=C(C=C2)C(N)=O)CC1 | C28H35N3O3
reactant | HCl | 4N, 3 mL | Cl | ClH
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[(R)-1-(2,7-diaza-spiro[3.5]non-2-yl)-indan-5-yl]-benzamide hydrochloride | 102 mg, 95% | Cl.C1N(CC12CCNCC2)[C@@H]2CCC1=CC(=CC=C21)C2=CC=C(C(=O)N)C=C2 | InChI=1S/C23H27N3O.ClH/c24-22(27)17-3-1-16(2-4-17)18-5-7-20-19(13-18)6-8-21(20)26-14-23(15-26)9-11-25-12-10-23;/h1-5,7,13,21,25H,6,8-12,14-15H2,(H2,24,27);1H/t21-;/m1./s1
